US05885786
Doxorubicin
Doxorubicin hydrochloride, 5,12-Naphthacenedione, (8s-cis)-10-[(3-amino-2,3,6-trideoxy-a-L-lyxo-hexopyranosyl)oxy]-7,8,9,10-tetrahydro-6,8,11-trihydroxy-8-(hydroxyacetyl)-1-methoxy-hydrochloride (hydroxydaunorubicin hydrochloride, Adriamycin) is used in a wide antineoplastic spectrum. It binds to DNA and inhibits nucleic acid synthesis, inhibits mitosis and promotes chromosomal aberrations.

reactant | Doxorubicin hydrochloride | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O.Cl
reactant | 5,12-Naphthacenedione | C1=CC=CC=2C(C3=CC4=CC=CC=C4C=C3C(C12)=O)=O | C18H10O2
product | Doxorubicin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
